US03997670
A mixture of 27.3 g of 1-[3-(2-methyl-2-dioxolanyl)propyl]-3-indolecarboxaldehyde (0.1 mole) and 40 g. (0.11 mole) of carbethoxymethylene triphenylphosphorane in 400 ml. of toluene is heated at reflux overnight. The resulting cold solution is filtered through a Silica gel column to remove the inorganic material to give 1-[3-(2-methyl-2-dioxolanyl)propyl]-3-indoleacrylic acid ethyl ester, m.p. 61°-62° C.

reactant | 1-[3-(2-methyl-2-dioxolanyl)propyl]-3-indolecarboxaldehyde | 0.1 mole, 27.3 g | CC1(OCCO1)CCCN1C=C(C2=CC=CC=C12)C=O | C16H19NO3
reactant | carbethoxymethylene triphenylphosphorane | 0.11 mole | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-[3-(2-methyl-2-dioxolanyl)propyl]-3-indoleacrylic acid ethyl ester | C(C)OC(C=CC1=CN(C2=CC=CC=C12)CCCC1(OCCO1)C)=O | C20H25NO4
